US05112822
Synthesis of 6-amino-5-bromo-1,2-dihydro-2,2-dimethyl-3-(4H)-quinoxalinone hydrobromide
A solution of 6-amino-1,2-dihydro-2,2-dimethyl-3-(4H)-quinoxalinone (250 mg, 1.31 mmol) in glacial acetic acid (4 ml) is cooled using a water bath. Bromine (210 mg, 1.31 mmol) in acetic acid (0.25 ml) is added dropwise over a 5 minute period. The mixture is stirred at room temperature for 4 hours and the resulting precipitate is collected by vacuum filtration. The title compound is obtained in pure form after drying in vacuo.

reactant | 6-amino-1,2-dihydro-2,2-dimethyl-3-(4H)-quinoxalinone | 1.31 mmol, 250 mg | NC=1C=C2NC(C(NC2=CC1)(C)C)=O | C10H13N3O
reactant | Bromine | 1.31 mmol, 210 mg | BrBr | Br2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
product | 6-amino-5-bromo-1,2-dihydro-2,2-dimethyl-3-(4H)-quinoxalinone hydrobromide | Br.NC=1C(=C2NC(C(NC2=CC1)(C)C)=O)Br | InChI=1S/C10H12BrN3O.BrH/c1-10(2)9(15)13-8-6(14-10)4-3-5(12)7(8)11;/h3-4,14H,12H2,1-2H3,(H,13,15);1H
